US06869967B2
{4-[3,3-Bis-(4-bromo-phenyl)-allyloxy]-phenyl}-acetic acid methyl ester
Under a atmosphere of nitrogen, azodicarboxylic dipiperidide (504 mg, 2.0 mmol) was added at 0-5° C. to a stirred solution of tributylphosphine (404 mg, 2.0 mmol), methyl 4-hydroxyphenylacetate (250 mg, 1.5 mmol) and 3,3-bis-(4-bromophenyl)prop-2-en-1-ol (552 mg, 1.5 mmol) in dry THF (10 ml), the mixture stirred for 1 h, filtered and concentrated in vacuo. The crude product was then purified by column chromatography on silica (toluene eluent). The purified product was suspended in petroleum ether, filtered to give 480 mg (62%) of the title compound.

reactant | tributylphosphine | 2.0 mmol, 404 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl 4-hydroxyphenylacetate | 1.5 mmol, 250 mg | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | 3,3-bis-(4-bromophenyl)prop-2-en-1-ol | 1.5 mmol, 552 mg | BrC1=CC=C(C=C1)C(=CCO)C1=CC=C(C=C1)Br | C15H12Br2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | {4-[3,3-Bis-(4-bromo-phenyl)-allyloxy]-phenyl}-acetic acid methyl ester | 480 mg, 62% | COC(CC1=CC=C(C=C1)OCC=C(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br)=O | C24H20Br2O3
